US06743816B2
3-Chloro-4-ethoxybenzaldehyde
Following a similar procedure to that described in reference example 3, but starting from 3-chloro-4-hydroxybenzaldehyde instead of 4-hydroxybenzaldehyde and using ethyl iodide instead of 2-iodopropane, the title compound of the example was obtained as an oil (98% yield).

reactant | 3-chloro-4-hydroxybenzaldehyde | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | ethyl iodide | C(C)I | C2H5I
product | 3-Chloro-4-ethoxybenzaldehyde | ClC=1C=C(C=O)C=CC1OCC | C9H9ClO2
